US06995184B2
A) (7-Bromo-2-ethyl-1H-indol-3-yl)-(2,3-dichlorophenyl)methanone.
3.45 g of 7-bromo-2-ethyl-1H-indole are placed under nitrogen in 30 ml of ether and the mixture is cooled to +3° C.; 5.1 ml of methylmagnesium iodide in 20 ml of ether and then 5.9 g of dichlorobenzoyl chloride in 30 ml of ether are added. 10 ml of THF are added and the mixture is allowed to return to AT and is stirred for 3 hours. The medium is poured onto a saturated NH4Cl solution and is then extracted with ether. The organic phase is washed with a 10% HCl solution, a 10% NaOH solution, water and an NaCl solution. It is dried and evaporated and then the residue is chromatographed on silica while eluting with an AcOEt/cyclohexane (3/7, v/v) mixture. 2.18 g of the expected compound are obtained.

reactant | 7-bromo-2-ethyl-1H-indole | 3.45 g | BrC=1C=CC=C2C=C(NC12)CC | C10H10BrN
reactant | methylmagnesium iodide | 5.1 ml | C[Mg]I
reactant | dichlorobenzoyl chloride | 5.9 g | ClC=1C(=C(C(=O)Cl)C=CC1)Cl | C7H3Cl3O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (7-Bromo-2-ethyl-1H-indol-3-yl)-(2,3-dichlorophenyl)methanone | 2.18 g | BrC=1C=CC=C2C(=C(NC12)CC)C(=O)C1=C(C(=CC=C1)Cl)Cl | C17H12BrCl2NO
